US06172135B2
U.S. Pat. No. 5,286,801 teaches that the impact strength of an (meth)acrylic polymer, consisting of a copolymer containing 99% methyl methacrylate and 1% methyl acrylate, is improved by the use of a five stage core-shell particle in which the core, second shell and fourth shell are formed from a methyl methacrylate/ethyl acrylate copolymer containing 95.4 to 95.8% w/w methyl methacrylate, 3.9 to 4.6% w/w ethyl acrylate and 0 to 0.3% w/w allyl methacrylate; and the first and third shells are a n-butyl acrylate/styrene copolymer containing 80.4% w/w butyl acrylate, 17.6% w/w styrene and 2% w/w allyl methacrylate. The methyl methacrylate/ethyl acrylate copolymer representing 34.5% w/w of the total particle. Comparative examples relate to a three stage core-shell particle in which the core and second shell are formed from a methyl methacrylatelethyl acrylate copolymer containing 95.9 to 96% w/w methyl methacrylate, 4% w/w ethyl acrylate and 0 to 0.1% w/w allyl methacrylate; and the first shell is a n-butyl acrylate/styrene copolymer containing 80.4% w/w butyl acrylate, 17.6% w/w styrene and 2% w/w of allyl methacrylate. The methyl methacrylate/ethyl acrylate copolymer representing 35.5% w/w of the total particle. When blended at a level of 39% with an (meth)acrylic polymer, to give a n-butyl acrylate/styrene content of 25.5% w/w (using the five stage core-shell particles) and 25.2% w/w (using the three stage particles), the best five stage core-shell particles gave an unnotched Charpy Impact strength of 81 kJ.m−2 which represented an increase of 19% over that achieved by the comparative three stage core particles.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | methyl methacrylate ethyl acrylate | C(C(=C)C)(=O)OC.C(C=C)(=O)OCC | 2C5H8O2
